US08809539B2
Few crystals of iodine are added to tetrahydrofuran (1400 mL) containing magnesium turnings (25.17 g, 1.035 mol). The mixture is heated at 60-70° C. A solution of 4-bromo-2-fluorobiphenyl (200 g, 0.797 mol) in tetrahydrofuran (600 mL) is added dropwise to the reaction mixture and refluxed for 1 hr. Reaction mixture is brought to room temperature and then cooled to −20° C. Carbon dioxide gas is passed through the reaction mixture for 45 minutes. The reaction mixture is treated with 3N HCl (500 mL) and extracted with ethyl acetate (2×500 mL). Combined organic layer is dried over sodium sulphate. Removal of solvent under reduced pressure gives a solid which is washed with diethyl ether (2×200 mL) and then dried to furnish 2-fluorobiphenyl-4-carboxylic acid.

reactant | iodine | II | I2
reactant | magnesium | 1.035 mol, 25.17 g | [Mg] | Mg
reactant | 4-bromo-2-fluorobiphenyl | 0.797 mol, 200 g | BrC1=CC(=C(C=C1)C1=CC=CC=C1)F | C12H8BrF
reactant | Carbon dioxide | C(=O)=O | CO2
reactant | HCl | 3N, 500 mL | Cl | ClH
solvent | tetrahydrofuran | 600 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1400 mL | O1CCCC1 | C4H8O
product | 2-fluorobiphenyl-4-carboxylic acid | FC1=C(C=CC(=C1)C(=O)O)C1=CC=CC=C1 | C13H9FO2
